US07910588B2
Combine 1H-pyrazole-4-carbaldehyde (0.110 g, 1.14 mmol), 2-bromoethanol (0.172 g, 1.37 mmol), and potassium carbonate (0.236 g, 1.71 mmol) in acetonitrile (2 mL). Heat in microwave at 150° C. for 20 min. Cool to room temperature and filter, wash with acetonitrile. Concentrate filtrate to give 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde (0.155 g, 97%). GC-MS (m/z): 140 (M+).

reactant | 1H-pyrazole-4-carbaldehyde | 1.14 mmol, 0.110 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | 2-bromoethanol | 1.37 mmol, 0.172 g | BrCCO | C2H5BrO
reactant | potassium carbonate | 1.71 mmol, 0.236 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1-(2-hydroxy-ethyl)-1H-pyrazole-4-carbaldehyde | 0.155 g, 97% | OCCN1N=CC(=C1)C=O | C6H8N2O2
